US06548495B2
Bromine (4.6 ml) was dropped at 20-30° C. over 20 min. to a solution of methyl 3-propionyl-benzoate (17.24 g) in diethyl ether (0.15 L). Stirring was continued for 10 min. and the reaction mixture was then evaporated in vacuum to give methyl 3-(2-bromo-propionyl)-benzoate (25.5 g) as a yellow oil.

reactant | Bromine | 4.6 ml | BrBr | Br2
reactant | methyl 3-propionyl-benzoate | 17.24 g | C(CC)(=O)C=1C=C(C(=O)OC)C=CC1 | C11H12O3
solvent | diethyl ether | 0.15 L | C(C)OCC | C4H10O
product | methyl 3-(2-bromo-propionyl)-benzoate | 25.5 g | BrC(C(=O)C=1C=C(C(=O)OC)C=CC1)C | C11H11BrO3
